US03957989
2,7-BIS(4-MORPHOLINOBUTYRYL)XANTHENE
A mixture of 43.2 g (0.08 mole) 2,7-bis(4-chloro-1,1-diethoxybutyl)xanthene, 2 g. of potassium iodide, 100 ml. of morpholine and 100 ml. tetrahydrofuran was heated for 24 hours with stirring in a Paar bomb at 110°C. After cooling, the mixture was filtered and the filtrate was evaporated to dryness. The residue was cooled, dissolved in 300 ml. of 10% HCl and refluxed for 1 hour. The solution was cooled, filtered, the filtrate made alkaline, and extracted with chloroform. The chloroform extract was evaporated to dryness and the residue was recrystallized twice from a 1:4 mixture of benzene in heptane. Upon drying under vacuum, the desired product was obtained. M.P. 110°-111.5°C.

reactant | 2,7-bis(4-chloro-1,1-diethoxybutyl)xanthene | 0.08 mole, 43.2 g | ClCCCC(OCC)(OCC)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCl)(OCC)OCC | C29H40Cl2O5
reactant | potassium iodide | [I-].[K+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(4-MORPHOLINOBUTYRYL)XANTHENE | O1CCN(CC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN1CCOCC1)=O | C29H36N2O5
